US05453514
A solution of 2.06 g of 3-propyl-2,4-pentanedione in 10 ml of methanol was added little by little to a solution of 1.56 g of aminoguanidine hydrochloride in 5 ml of water, 30 ml of methanol and 1 ml of concentrated hydrochloric acid, and stirred overnight at room temperature. The solvents were removed by distillation under reduced pressure, and the residue was purified by silica gel chromatography (eluent: chloroform/methanol=5/1) and then recrystallized from ethanol-ether to obtain 1.70 g of 3,5-dimethyl-4-propyl-1H-pyrazole-1-carboxamidine hydrochloride.

reactant | 3-propyl-2,4-pentanedione | 2.06 g | C(CC)C(C(C)=O)C(C)=O | C8H14O2
reactant | aminoguanidine hydrochloride | 1.56 g | C(=N)(N)NN.Cl
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 3,5-dimethyl-4-propyl-1H-pyrazole-1-carboxamidine hydrochloride | 1.70 g | Cl.CC1=NN(C(=C1CCC)C)C(=N)N | InChI=1S/C9H16N4.ClH/c1-4-5-8-6(2)12-13(7(8)3)9(10)11;/h4-5H2,1-3H3,(H3,10,11);1H
